US07977345B2
To a round bottom flask equipped with a magnetic stir bar was added cyclopropane-1,1-dicarboxylic acid {3-fluoro-4-[6-(2-morpholin-4-yl-ethylcarbamoyl)-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-amide(4-fluoro-phenyl)-amide (0.049 g, 0.07 mmol, 1.0 eq.) and a 1M tetrabutylammonium fluoride solution (5 ml). The reaction was heated to reflux for 1 hour. The reaction was diluted with ethyl acetate, and was washed with (2×) H2O (50 ml), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The crude product was purified by flash column chromatography using 3% methanol and DCM as the eluent, giving N-{3-fluoro-4-[(6-{[(2-morpholin-4-ylethyl)amino]carbonyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide as a white solid (0.014 g, 35% yield). 1H NMR (400 MHz, DMSO): 12.92 (s, 1H), 10.39 (bs, 1H), 10.36 (s, 1H), 10.04 (s, 1H), 9.11 (m, 1H), 8.37 (s, 1H), 7.83 (d, 1H), 7.66 (m, 2H), 7.46 (m, 1H), 7.40 (m, 1H), 7.15 (t, 2H), 3.98 (d, 2H), 3.77 (m, 3H), 3.56 (d, 2H), 3.16 (m, 2H), 3.02 (m, 3H), 1.59 (m, 2H), 1.36 (m, 2H); MS (ESI) for C30H29F2N7O5: 606 (MH+).

reactant | cyclopropane-1,1-dicarboxylic acid {3-fluoro-4-[6-(2-morpholin-4-yl-ethylcarbamoyl)-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-amide(4-fluoro-phenyl)-amide | 0.07 mmol, 0.049 g, 1.0 eq. | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC=1C2=C(N=CN1)N(C(=C2)C(NCCN2CCOCC2)=O)COCC[Si](C)(C)C)F | C36H43F2N7O6Si
reactant | tetrabutylammonium fluoride | 1M, 5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-fluoro-4-[(6-{[(2-morpholin-4-ylethyl)amino]carbonyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 0.014 g, 35% yield | FC=1C=C(C=CC1OC=1C2=C(N=CN1)NC(=C2)C(=O)NCCN2CCOCC2)NC(=O)C2(CC2)C(=O)NC2=CC=C(C=C2)F | C30H29F2N7O5
